US08227801B2
A mixture of 2-bromodibenzo[b,d]thiophene (3.22 g, 12.24 mmol), 9-phenyl-9H-9′H-3,3′-bicarbazole (2.5 g, 6.12 mmol), and sodium t-butoxide (1.764 g, 18.36 mmol) in 100 mL of xylene was bubbled with N2 for 20 min. Pd2(dba)3 (0.056 g, 0.061 mmol) and dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (0.100 g, 0.245 mmol) were then added, and mixture was then bubbled with nitrogen for another 20 min. The reaction mixture was refluxed under N2 for 24 h. The mixture was cooled and filtered through Celite. After solvent evaporation, the residue was coated on Celite and purified by column chromatography using up to 50% dichloromethane in hexane as solvent. 9-(dibenzo[b,d]thiophen-2-yl)-9′-phenyl-9H,9′H-3,3′-bicarbazole (2.1 g, 3.55 mmol, 58.1% yield) was obtained.

reactant | 2-bromodibenzo[b,d]thiophene | 12.24 mmol, 3.22 g | BrC1=CC2=C(SC3=C2C=CC=C3)C=C1 | C12H7BrS
reactant | 9-phenyl-9H-9′H-3,3′-bicarbazole | 6.12 mmol, 2.5 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C=1C=CC=2NC3=CC=CC=C3C2C1 | C30H20N2
reactant | sodium t-butoxide | 18.36 mmol, 1.764 g | CC(C)([O-])C.[Na+]
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Pd2(dba)3 | 0.061 mmol, 0.056 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.245 mmol, 0.100 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
product | 9-(dibenzo[b,d]thiophen-2-yl)-9′-phenyl-9H,9′H-3,3′-bicarbazole | 3.55 mmol, 2.1 g, 58.1% yield | C1=C(C=CC=2SC3=C(C21)C=CC=C3)N3C2=CC=CC=C2C=2C=C(C=CC32)C=3C=CC=2N(C1=CC=CC=C1C2C3)C3=CC=CC=C3 | C42H26N2S
